US03991066
EXAMPLE 15: 3-(1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]-pyridin-2-yl)propionic acid benzyl ester
A mixture of 12.5 g of 1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine and 10 g acrylic acid ethyl ester are heated in 100 ml of ethanol for 3 hours at 80° C and then evaporated to dryness. The title compound is obtained as a colourless oil after distillation under a vacuum of 0.1 Torr.

reactant | 1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine | 12.5 g | CC=1C2=CC=CC=C2C2CNCCC21 | C13H15N
reactant | acrylic acid ethyl ester | 10 g | C(C)OC(C=C)=O | C5H8O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]-pyridin-2-yl)propionic acid benzyl ester | C(C1=CC=CC=C1)OC(CCN1CC2C(CC1)=C(C1=CC=CC=C12)C)=O | C23H25NO2
